US06933387B2
b) (4R,10aR)-7-Amino-4-methyl-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester
A mixture of (4R,10aR)-7-(benzhydrylidene-amino)-4-methyl-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester (3.35 g, 7.2 mmol), ammonium formiate (6.8 g, 107 mmol) and palladium on carbon (1.5 g, 5%) in methanol (35 mL) was heated to 60° C. for 1 h. After cooling the mixture was diluted with dichloromethane (100 mL) and filtered. The filtrate was washed with water (100 mL), the water phase was extracted with dichloromethane, and organic phases were pooled and dried with MgSO4. The solvents were removed in vacuo and the residue was purified by chromatography on silica gel with ethylacetate/n-hexane (1:1). The title product was isolated as yellow foam (1.15 g, 53%); ISP-MS: m/e=304.4 (M+H+).

reactant | (4R,10aR)-7-(benzhydrylidene-amino)-4-methyl-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester | 7.2 mmol, 3.35 g | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C=3C=C(C=CC3C2)N=C(C2=CC=CC=C2)C2=CC=CC=C2)[C@@H](C1)C | C30H33N3O2
reactant | ammonium formiate | 107 mmol, 6.8 g | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
solvent | methanol | 35 mL | CO | CH4O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (4R,10aR)-7-Amino-4-methyl-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C=3C=C(C=CC3C2)N)[C@@H](C1)C | C17H25N3O2
